US04259336
(a) Monosodium 2-carboxy-6-chloro-benzo-[b]-thiophene-3-sulfonate
Prepared analogous to Example 1(a) from 3,6-dichlorobenzo[b]-thiophene-2-carboxylic acid chloride (m.p. 132°-133° C.) by hydrolysis with aqueous sodium hydroxide solution and subsequent reaction with sodium hydrogen sulfite in the presence of copper(I)-chloride as a catalyst.

reactant | 3,6-dichlorobenzo[b]-thiophene-2-carboxylic acid chloride | ClC=1C2=C(SC1C(=O)Cl)C=C(C=C2)Cl | C9H3Cl3OS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
catalyst | copper(I)-chloride | [Cu]Cl
product | Monosodium 2-carboxy-6-chloro-benzo-[b]-thiophene-3-sulfonate | C(=O)(O)C1=C(C2=C(S1)C=C(C=C2)Cl)S(=O)(=O)[O-].[Na+] | InChI=1S/C9H5ClO5S2.Na/c10-4-1-2-5-6(3-4)16-7(9(11)12)8(5)17(13,14)15;/h1-3H,(H,11,12)(H,13,14,15);/q;+1/p-1
